US03989835
Preparation of 3'-[(2-Imino-3-thiazolidinyl)acetyl]acetanilide hydrobromide (IIB)
A solution of 5.12 g. (0.020 mole) of 3'-bromoacetylacetanilide in 70 ml. of acetone is added to a stirred solution of 2.04 g. (0.020 mole) of 2-amino-2-thiazoline in 30 ml. of acetone. The mixture is stirred 1.5 hours and the precipitate then filtered, washed with acetone and dried to give 6.00 g. of white solid, which on recrystallization from water gives the product, melting point 275°-277°C. Anal. Calcd. for C13H16BrN3O2S: C, 43.58; H, 4.50; Br, 22.31; N, 11.73; S, 8.95. Found: C, 43.99; H, 4.66; Br, 22.51; N, 11.72; S, 9.14.

reactant | 3'-bromoacetylacetanilide | 0.020 mole | BrCC(=O)C=1C=C(NC(C)=O)C=CC1 | C10H10BrNO2
reactant | 2-amino-2-thiazoline | 0.020 mole | NC=1SCCN1 | C3H6N2S
solvent | acetone | CC(=O)C | C3H6O
product | 3'-[(2-Imino-3-thiazolidinyl)acetyl]acetanilide hydrobromide | Br.N=C1SCCN1CC(=O)C=1C=C(NC(C)=O)C=CC1 | InChI=1S/C13H15N3O2S.BrH/c1-9(17)15-11-4-2-3-10(7-11)12(18)8-16-5-6-19-13(16)14;/h2-4,7,14H,5-6,8H2,1H3,(H,15,17);1H
